US08748458B2
(6-Ethoxycarbonyl-hexyl)-triphenyl-phosphonium bromide (I)
Ethyl-7-bromoheptanoate (2.5 g, 10.54 mmol) and PPh3 (2.764 g, 10.54 mmol) were added to acetonitrile (50 mL) and the mixture was stirred under Ar(g) at reflux for 18 h. The solvent was subsequently removed by evaporation under reduced pressure, and the resulting phosphonium bromide derivative I was dried under high vacuum.

reactant | Ethyl-7-bromoheptanoate | 10.54 mmol, 2.5 g | C(C)OC(CCCCCCBr)=O | C9H17BrO2
reactant | PPh3 | 10.54 mmol, 2.764 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (6-Ethoxycarbonyl-hexyl)-triphenyl-phosphonium bromide | [Br-].C(C)OC(=O)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H32O2P.BrH/c1-2-29-27(28)22-14-3-4-15-23-30(24-16-8-5-9-17-24,25-18-10-6-11-19-25)26-20-12-7-13-21-26;/h5-13,16-21H,2-4,14-15,22-23H2,1H3;1H/q+1;/p-1
